US04394515
8-Acetyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-Dioxide
Suspend 2.2 g. of 8-acetyl-3-cyano-10,11-dihydrodibenzo[b,f]thiepin-5,5-dioxide in 60 ml. of acetic acid and 60 ml. of 50% sulfuric acid. Reflux under a nitrogen atmosphere for 6 hours. Cool to room temperature. Evaporate the acetic acid, dilute with water and separate the solids by filtration. Wash with water and air dry. Suspend the solid in ether (200 ml.), stir at room temperature and filter to obtain the title product. (m.p. 219°-221° C.)

reactant | 8-acetyl-3-cyano-10,11-dihydrodibenzo[b,f]thiepin-5,5-dioxide | C(C)(=O)C=1C=CC2=C(CCC3=C(S2(=O)=O)C=C(C=C3)C#N)C1 | C17H13NO3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Acetyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylic Acid 5,5-Dioxide | C(C)(=O)C=1C=CC2=C(CCC3=C(S2(=O)=O)C=C(C=C3)C(=O)O)C1 | C17H14O5S
